US07153855B2
To a solution of N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-amine (1.16 g, 2.48 mmol) in dichloromethane (50 mL) at −78° C. was added boron tribromide (9.92 mL, 1.0 M in dichloromethane, 9.92 mmol) dropwise. The resulting solution was allowed to warm to room temperature. After stirring for 15 hours at room temperature, the mixture was cooled to 0° C. and quenched by the addition of water. The mixture was extracted with ethyl acetate. The organic phase was dried (magnesium sulfate), filtered and concentrated to give a solid residue which was purified by flash chromatography (95:5 chloroform-methanol). 4-{7-(Cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenol was obtained as a yellow solid (0.80 g, 71%). 1H NMR (CDCl3): δ 7.91 (d, 1H), 7.70 (d, 1H), 7.46 (d, 2H), 7.26 (t, 1H), 6.86 (d, 2H), 6.27 (d, 1H), 6.00–5.97 (m, 2H), 5.06 (d, 1H), 4.33 (m, 1H), 3.96 (m, 1H), 2.10–2.03 (m, 4H), 1.78–1.47 (m, 12H); MS m/z 455 (M+1). U157430-190

reactant | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-amine | 2.48 mmol, 1.16 g | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OC | C28H32N6O
reactant | boron tribromide | 9.92 mmol, 1.0 M, 9.92 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-{7-(Cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenol | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)O | C27H30N6O
